US07737166B2
2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile (I-182)
2-Cyclopropyl-7-fluoro-5-methyl-6-vinyl-1,3-benzoxazole-4-(carbonitrile (I-180) (500 mg, 2.06 mmol) was dissolved in 1,4-dioxane (7.5 ml) and water (2.5 ml), then at room temperature, 2,6-lutidine (481 μl, 4.13 mmol), a catalytic amount of osmium tetroxide and sodium metaperiodate (1.766 g, 8.26 mmol) were added. After stirring at the same temperature for 13 hours, sodium sulfite (purity 90%, 1.61 g, 12.38 mmol) and water (5 ml) were added. The solution was fractionated with ethyl acetate and saturated brine. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=6:1) to obtain the entitled compound (435 mg, 86%) as a white solid.

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6-vinyl-1,3-benzoxazole | C1(CC1)C=1OC2=C(N1)C=C(C(=C2F)C=C)C | C13H12FNO
reactant | 2,6-lutidine | 4.13 mmol, 481 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium metaperiodate | 8.26 mmol, 1.766 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | 12.38 mmol, 1.61 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 7.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 435 mg, 86% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=O)C)C#N | C13H9FN2O2
